US07560551B2
In an argon purged 500 mL round bottom flask placed in an isopropanol bath, was added sodium metal (3.40 g, 148 mmol) slowly to methanol (180 mL). The mixture was stirred at RT for about 30 minutes. To this was added guanidine hydrochloride (12.0 mL, 182 mmol) and the mixture was stirred at RT for 30 minutes, followed by addition of (E)-1-(2-chloropyridin-3-yl)-3-(dimethylamino)prop-2-en-1-one (12.0 g, 57.0 mmol), attached air condenser, moved reaction to an oil bath, where it was heated to about 50° C. for 24 h. Approximately half of the methanol was evaporated under reduced pressure and the solids were filtered under vacuum, then washed with saturated NaHCO3 and H2O, air dried to yield 4-(2-chloropyridin-3-yl)pyrimidin-2-amine as off white solid. MS m/z=207 [M+1]+. Calc'd for C9H7ClN4: 206.63.

reactant | sodium | 148 mmol, 3.40 g | [Na] | Na
reactant | guanidine hydrochloride | 182 mmol, 12.0 mL | Cl.NC(=N)N
reactant | (E)-1-(2-chloropyridin-3-yl)-3-(dimethylamino)prop-2-en-1-one | 57.0 mmol, 12.0 g | ClC1=NC=CC=C1C(\C=C\N(C)C)=O | C10H11ClN2O
solvent | methanol | 180 mL | CO | CH4O
product | 4-(2-chloropyridin-3-yl)pyrimidin-2-amine | ClC1=NC=CC=C1C1=NC(=NC=C1)N | C9H7ClN4
